US06579868B1
A mixed solution (reagent A) of 2 liters of a 40% aqueous solution of methylamine and 1.5 liters of acetic acid previously prepared at not higher than 10° C. was weighed and taken out in an amount of 1.8 liters and added dropwise into a solution of 1.5 kg of N1-(4,6-dichloro-5-nitro-2-pyrimidinyl)acetamide in 15 liters of tetrahydrofuran with stirring under ice-cooling over 1 hour. The addition was carried out keeping the bulk temperature at 4° C. or lower. After the mixture was stirred for 30 minutes under ice-cooling, 450 ml of the reagent A was further added. After further 30 minutes, 450 ml of the reagent A was added again followed by stirring for 40 minutes. Ice (4.5 kg) was added to the reaction mixture followed by adding 10 liters of cold water. The resulting crystals were collected by filtration and washed with 1 liter of water twice and with 1 liter of ether twice. Then it was dried at 50° C. for 6 hours to give 1253 g of N1-(4-Chloro-6-methylamino-5-nitro-2-pyrimidinyl)acetamide. The yield was 85%.

reactant | methylamine | CN | CH5N
reactant | acetic acid | 1.5 liters | C(C)(=O)O | C2H4O2
reactant | N1-(4,6-dichloro-5-nitro-2-pyrimidinyl)acetamide | 1.5 kg | ClC1=NC(=NC(=C1[N+](=O)[O-])Cl)NC(C)=O | C6H4Cl2N4O3
reactant | water | 10 liters | O | H2O
solvent | tetrahydrofuran | 15 liters | O1CCCC1 | C4H8O
product | N1-(4-Chloro-6-methylamino-5-nitro-2-pyrimidinyl)acetamide | 1253 g, yield was 85% | ClC1=NC(=NC(=C1[N+](=O)[O-])NC)NC(C)=O | C7H8ClN5O3
